US07491722B2
Methyl 5-[(5-acetyl-2-ethyl-3-oxo-6-phenyl-2,3-dihydropyridazin-4-yl)amino]quinoline-8-carboxylate
A mixture of (160 mg, 0.556 mmol) of 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one (Dal Piaz, V et al, J. Med. Chem. 1997, 40, 1417), 5-aminoquinoline-8-carboxilic acid methyl ester (226 mg, 1.114 mmol) (Preparation 99) and ethanol (8 mL) was introduced in the microwave oven. The mixture was stirred at 126.0° C. during 45 minutes. The solvent was evaporated and the residue purified by column chromatography (silica gel, dichloromethane/methanol 100:1) and preparative HPLC/MS to yield the title compound (7 mg, 3% yield).

reactant | 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one | 0.556 mmol, 160 mg | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)[N+](=O)[O-] | C14H13N3O4
reactant | 5-aminoquinoline-8-carboxilic acid methyl ester | 1.114 mmol, 226 mg | COC(=O)C=1C=CC(=C2C=CC=NC12)N | C11H10N2O2
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | Methyl 5-[(5-acetyl-2-ethyl-3-oxo-6-phenyl-2,3-dihydropyridazin-4-yl)amino]quinoline-8-carboxylate | 7 mg, 3% yield | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)NC1=C2C=CC=NC2=C(C=C1)C(=O)OC | C25H22N4O4
